US04057559
1-Methyl-2-oxocyclohexanepropionic Acid Methyl Ester (9, R1 and R7 = CH3, R2 = H and n = 3)
in the same manner but replacing 2-methylcyclohexanone with an equivalent amount of 2-ethylcyclohexanone or 2-propylcyclohexanone, 1-ethyl-2-oxocyclohexanepropionic acid methyl ester, bp 117° - 120° C/0.4mm, and 1-propyl-2-oxocyclohexanepropionic methyl ester, νmaxCHCl3 1735, 1700cm-1, are obtained, respectively.

reactant | 2-methylcyclohexanone | CC1C(CCCC1)=O | C7H12O
reactant | 2-ethylcyclohexanone | C(C)C1C(CCCC1)=O | C8H14O
reactant | 2-propylcyclohexanone | C(CC)C1C(CCCC1)=O | C9H16O
reactant | 1-ethyl-2-oxocyclohexanepropionic acid methyl ester | COC(CCC1(C(CCCC1)=O)CC)=O | C12H20O3
reactant | 1-propyl-2-oxocyclohexanepropionic methyl ester | COC(CCC1(C(CCCC1)=O)CCC)=O | C13H22O3
product | 1-Methyl-2-oxocyclohexanepropionic Acid Methyl Ester | COC(CCC1(C(CCCC1)=O)C)=O | C11H18O3
